US08071593B2
Preparation of methyl 3-(3,4-diaminobenzyl)-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate
1.45 g (3.8 mmol) of methyl 3-(3,4-dinitrobenzyl)-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate are dissolved in 20 ml of THF and hydrogenated under a hydrogen atmosphere using 1 g of Raney nickel (water-wet). After 24 h, the reaction solution is filtered, and the filtrate is evaporated to dryness; product: 1.1 g, ESI: 314 (M+H).

reactant | methyl 3-(3,4-dinitrobenzyl)-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate | 3.8 mmol, 1.45 g | [N+](=O)([O-])C=1C=C(CN2C(OC3=C2C=C(C=C3)C(=O)OC)=O)C=CC1[N+](=O)[O-] | C16H11N3O8
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | methyl 3-(3,4-diaminobenzyl)-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate | NC=1C=C(CN2C(OC3=C2C=C(C=C3)C(=O)OC)=O)C=CC1N | C16H15N3O4
